US07384934B2
(S)-(1,4-Dibenzyl-piperazin-2-yl)-acetaldehyde
Add anhydrous DMSO (3.57 mL, 50.25 mmol) in anhydrous dichloromethane (68.0 mL). Cool to −78° C. and stir. Add oxalyl chloride (2M in dichloromethane, 12.06 mL, 24.125 mmol) dropwise. Stir at −78° C. for 30 minutes. Add (1,4-dibenzyl-piperazin-2-yl)-ethanol (6.241 g, 20.1 mmol) in dichloromethane (12.0 mL) and stir. After 1 hour, add triethylamine (14.01 mL, 100.5 mmol) and stir for another 1 hour. Allow the reaction mixture gradually warm to ambient temperature. Add saturated ammonium chloride. (200 mL). Exact aqueous portion with ethyl acetate three times. Combine the organic solution, dry over sodium sulfate, filter, and concentrate under reduced pressure to give crude residue. Purify the residue by flash chromatography, eluting with 2M ammonia in methanol:dichloromethane (5:95) to give the title compound: mass spectrum (m/e):309.03 (M+1).

reactant | DMSO | 50.25 mmol, 3.57 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 24.125 mmol, 2M, 12.06 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1,4-dibenzyl-piperazin-2-yl)-ethanol | 20.1 mmol, 6.241 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(C)O | C20H26N2O
reactant | triethylamine | 100.5 mmol, 14.01 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 68.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 12.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-(1,4-Dibenzyl-piperazin-2-yl)-acetaldehyde | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CC=O | C20H24N2O
